US07498440B2
Preparation of 4-[bis(3-fluorophenyl)(hydroxy)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl[bis(3-fluorophenyl)]methanol (0.0507 g, 0.154 mmol) and 2-bromoethyl phenylmethyl ether (0.0365 mL, 0.230 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0362 g, 43.2%). EI-MS m/z 464(M+) Rt (2.02 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl[bis(3-fluorophenyl)]methanol | 0.154 mmol, 0.0507 g | N12CCC(CC1)(CC2)C(O)(C2=CC(=CC=C2)F)C2=CC(=CC=C2)F | C20H21F2NO
reactant | 2-bromoethyl phenylmethyl ether | 0.230 mmol, 0.0365 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[bis(3-fluorophenyl)(hydroxy)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0362 g, 43.2% | [Br-].FC=1C=C(C=CC1)C(C12CC[N+](CC1)(CC2)CCOCC2=CC=CC=C2)(O)C2=CC(=CC=C2)F | InChI=1S/C29H32F2NO2.BrH/c30-26-10-4-8-24(20-26)29(33,25-9-5-11-27(31)21-25)28-12-15-32(16-13-28,17-14-28)18-19-34-22-23-6-2-1-3-7-23;/h1-11,20-21,33H,12-19,22H2;1H/q+1;/p-1
